US05532248
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-t-butyldimethylsiloxycinnamyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,-10,16-tetraone (700 mg in 12 ml methylene chloride)-4-t-butyldimethylsiloxycinnamyl trichloroacetimidate (550 μl neat) was added and the reagents allowed to mix for 5 minutes. Camphorsulfonic acid (35 mg) was added and the mixture stirred at room temperature. After 5 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×15 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol) gave the title compound (190 mg). 1H NMR spectrum was consistent with the desired structure.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,-10,16-tetraone | 12 ml, 700 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | Camphorsulfonic acid | 35 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 4-t-butyldimethylsiloxycinnamyl trichloroacetimidate | 550 μl | ClC(C(OCC=CC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=N)(Cl)Cl | C17H24Cl3NO2Si
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-t-butyldimethylsiloxycinnamyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 190 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=CC2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C58H91NO13Si
